wheatstone_bridge - fault test
V1 pos 0 DC 20
R1 pos mid1 101.793493
R3 mid1 0 196.523939
R2 pos mid2 152.537877
R4 mid2 0 295.575441
Cg mid1 mid2 3.79e-06
.op
.control
run
print v(mid1) v(mid2) v(pos)
print @r1[i] @r3[i] @r2[i] @r4[i]
.endc
.end
